US06787543B2
Tert-Butyl (3RS,4aSR,8aSR)-3-benzhydryloctahydroquinoxaline-1-carboxylate (42 mg) was dissolved in 4N ethyl acetate solution of hydrogen chloride (4 ml) and the mixture was stirred at ambient temperature for 3 hours. The volatile materials were removed under reduced pressure to give (2RS,4aSR,8aSR)-2-benzhydryldecahydroquinoxaline dihydrochloride (28 mg).

reactant | Tert-Butyl (3RS,4aSR,8aSR)-3-benzhydryloctahydroquinoxaline-1-carboxylate | 42 mg | C(C1=CC=CC=C1)(C1=CC=CC=C1)C1CN(C2CCCCC2N1)C(=O)OC(C)(C)C | C26H34N2O2
reactant | hydrogen chloride | 4 ml | Cl | ClH
solvent | ethyl acetate | 4N | C(C)(=O)OCC | C4H8O2
product | (2RS,4aSR,8aSR)-2-benzhydryldecahydroquinoxaline dihydrochloride | 28 mg | Cl.Cl.C(C1=CC=CC=C1)(C1=CC=CC=C1)C1NC2CCCCC2NC1 | InChI=1S/C21H26N2.2ClH/c1-3-9-16(10-4-1)21(17-11-5-2-6-12-17)20-15-22-18-13-7-8-14-19(18)23-20;;/h1-6,9-12,18-23H,7-8,13-15H2;2*1H
